US05534515
4b. 7-Benzyloxy-1-(4-methoxybenzyl)-2-methylpyrrolo[2,3-d]pyridazine
5.63 g (52 mmol) of benzyl alcohol, 90 ml of N-methylpyrrolidone, 9.75 g (87mmol) of potassium tert-butoxide, 0.46 g (1.74 mmol) of [18]crown-6 and 5.0 g (17 mmol) of 7-chloro-1-(4-methoxybenzyl)-2-methylpyrrolo[2,3-d]pyridazine are reacted at room temperature for 2 h. Purification: crystallization from ethyl acetate, concentration of the mother liquor and chromatography on silica gel (eluent: toluene/dioxane =9:1). Yield: 80%, m.p.: 152°-156° C.

reactant | benzyl alcohol | 52 mmol, 5.63 g | C(C1=CC=CC=C1)O | C7H8O
reactant | potassium tert-butoxide | 87mmol, 9.75 g | CC(C)([O-])C.[K+]
reactant | 7-chloro-1-(4-methoxybenzyl)-2-methylpyrrolo[2,3-d]pyridazine | 17 mmol, 5.0 g | ClC=1N=NC=C2C1N(C(=C2)C)CC2=CC=C(C=C2)OC | C15H14ClN3O
solvent | N-methylpyrrolidone | 90 ml | CN1C(CCC1)=O | C5H9NO
product | 7-Benzyloxy-1-(4-methoxybenzyl)-2-methylpyrrolo[2,3-d]pyridazine | Yield: 80% | C(C1=CC=CC=C1)OC=1N=NC=C2C1N(C(=C2)C)CC2=CC=C(C=C2)OC | C22H21N3O2
